US07605161B2
Synthesis of 5-bromo-6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]-pyridine-3-sulfonic acid (2-cyclopropylethyl)amide
To a stirred solution of 5-bromo-6-chloro-pyridine-3-sulfonic acid (2-cyclopropylethyl)amide (0.432 9,1.272 mmol) in dioxane (15.0 mL) was added (5-fluoro-2-trifluoromethylphenyl)piperazin-1-yl-methanone (0.386 g, 1.399 mmol), potassium carbonate (0.703 g, 5.080 mmol) and tetrabutyl ammonium bromide (0.042 g, 0.130 mmol). The resulting mixture was stirred at reflux for 48 h, filtered and then concentrated in vacuo. The crude product was purified by column chromatography, eluting with a solvent gradient of 35% ethyl acetate and 65% hexane to yield the desired product (0.235 g, 32%). 1H NMR (300 MHz, CDCl3) δ 8.59-8.58, 8.16-8.15, 7.74-7.69, 7.24-7.18, 7.08-7.04, 4.97-4.93, 4.03-3.85, 3.60-3.55, 3.43-3.33, 3.07-2.99, 1.41-1.34, 0.60-0.53, 0.43-0.37, 0.025-0.015. 13C NMR (75 MHz, CDCl3) δ 166.1, 162.6, 145.4, 141.1, 130.5, 129.6, 129.5, 116.7, 116.4, 114.9, 114.7, 110.3, 48.8, 48.6, 46.9, 43.5, 41.6, 34.5, 8.2, 4.2. MS (ES+) m/z 581 (M).

reactant | 5-bromo-6-chloro-pyridine-3-sulfonic acid (2-cyclopropylethyl)amide | 1.272 mmol | C1(CC1)CCNS(=O)(=O)C=1C=NC(=C(C1)Br)Cl | C10H12BrClN2O2S
reactant | (5-fluoro-2-trifluoromethylphenyl)piperazin-1-yl-methanone | 1.399 mmol, 0.386 g | FC=1C=CC(=C(C1)C(=O)N1CCNCC1)C(F)(F)F | C12H12F4N2O
reactant | potassium carbonate | 5.080 mmol, 0.703 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 15.0 mL | O1CCOCC1 | C4H8O2
catalyst | tetrabutyl ammonium bromide | 0.130 mmol, 0.042 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-bromo-6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]-pyridine-3-sulfonic acid (2-cyclopropylethyl)amide | 0.235 g, 32% | C1(CC1)CCNS(=O)(=O)C=1C=NC(=C(C1)Br)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O | C22H23BrF4N4O3S
